US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (0.41 g) and [(4-dimethylaminophenyl)methyl](6-isopropylpyridin-3-yl)amine (0.54 g) as starting materials, N-[(4-dimethylaminophenyl)methyl]-N-(6-isopropylpyridin-3-yl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.13 g) was obtained.

reactant | 7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 0.41 g | COC1=CC=C2CCCC(C2=C1)C(=O)O | C12H14O3
reactant | [(4-dimethylaminophenyl)methyl](6-isopropylpyridin-3-yl)amine | 0.54 g | CN(C1=CC=C(C=C1)CNC=1C=NC(=CC1)C(C)C)C | C17H23N3
product | N-[(4-dimethylaminophenyl)methyl]-N-(6-isopropylpyridin-3-yl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.13 g | CN(C1=CC=C(C=C1)CN(C(=O)C1CCCC2=CC=C(C=C12)OC)C=1C=NC(=CC1)C(C)C)C | C29H35N3O2
